US08633186B2
(R)-2-((1-Isobutyrylpyrrolidine-2-yl)methoxy)-6-nitrobenzonitrile
Prepared as in Example 176b from (R)-2-((2-cyano-3-nitrophenoxy)methyl)pyrrolidinium chloride and isobutyryl chloride in 100% yield as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 0.96 (dd, J=6.6, 3.5 Hz, 6H), 1.93 (m, 4H), 2.14 (m, 1H), 2.66 (sept, J=6.6 Hz, 1H), 3.55 (m, 1H), 4.28 (m, 3H), 7.79 (dd, J=7.6, 1.8 Hz, 1H), 7.89 (m, 2H).

reactant | (R)-2-((2-cyano-3-nitrophenoxy)methyl)pyrrolidinium chloride | [Cl-].C(#N)C1=C(OC[C@@H]2[NH2+]CCC2)C=CC=C1[N+](=O)[O-]
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
product | (R)-2-((1-Isobutyrylpyrrolidine-2-yl)methoxy)-6-nitrobenzonitrile | 100% yield | C(C(C)C)(=O)N1[C@H](CCC1)COC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C16H19N3O4
